US08957062B2
Step A: Benzyl 4-[(1R,2S)-2-(2-{[5-(methylsulfonyl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate
To a solution of 860 mg (2.83 mmol) benzyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carboxylate in 14.5 ml anhydrous N,N-dimethylformamide at ambient temperature was added 147 mg (3.68 mmol) sodium hydride. The solution was stirred for 20 minutes. 669 mg (2.83 mmol) 2-bromo-5-(methylsulfonyl)pyridine was added into the solution. It was heated to 50° C., and stirred for 3 hours. 100 ml water was added into the mixture, and it was extracted with 50 ml ethyl acetate three times. The crude product was dried and purified using a Biotage Horizon® system (0-50% ethyl acetate/hexanes mixture) to give the title compound as colorless oil. 1H NMR (CDCl3): δ 8.71 (d, J=2.4 Hz, 1H), δ 8.03 (dd, J=8.8 Hz, 2.5 Hz, 1H), δ 7.30-7.37 (m, 5H), δ 6.84 (d, J=8.7 Hz, 1H), δ 5.13 (s, 2H), δ 4.49 (t, J=7.1 Hz, 2H), δ 4.10-4.16 (m, 2H), δ 3.07 (s, 2H), δ 2.75-2.76 (m, 2H), δ 2.08-2.12 (m, 1H), δ 1.74-1.75 (m, 2H), δ 1.50-1.56 (m, 2H), δ 1.29-1.40 (m, 2H), δ 0.88-0.99 (m, 2H), δ 0.56-0.70 (m, 2H). LC/MS 459.2 (M+1).

reactant | benzyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carboxylate | 2.83 mmol, 860 mg | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO3
reactant | sodium hydride | 3.68 mmol, 147 mg | [H-].[Na+]
reactant | 2-bromo-5-(methylsulfonyl)pyridine | 2.83 mmol, 669 mg | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 14.5 ml | CN(C=O)C | C3H7NO
product | Benzyl 4-[(1R,2S)-2-(2-{[5-(methylsulfonyl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate | CS(=O)(=O)C=1C=CC(=NC1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C24H30N2O5S
